US06835731B2
Preparation of Pyridine-2-sulfonic Acid (4-hydroxymethyl-phenyl)-amide:
Reaction of (4-Amino-phenyl)-methanol (249 mg, 2.03 mmol), N,N-diisopropylethylamine (294 μL, 1.69 mmol), and pyridine-2-sulfonyl chloride (300 mg, 1.69 mmol) for 1 h at room temperature followed by column chromatography on silica gel (CH2Cl2/MeOH 194:3) gave the title compound (210 mg, 47%) as a red solid. 1H NMR (300 MHz, CDCl3) δ 4.60 (d, 2H, J=6.0 Hz), 7.07 (br s, 1H), 7.15 (d, 2H, J=8.4 Hz), 7.23 (d, 2H, J=8.7 Hz), 7.44-7.48 (m, 1H), 7.83 (ddd, 1H, J=7.5, 7.5, 1.8 Hz), 7.89 (d, 1H, J=7.8 Hz), 8.72 (d, 1H, J=4.5 Hz).

reactant | (4-Amino-phenyl)-methanol | 2.03 mmol, 249 mg | NC1=CC=C(C=C1)CO | C7H9NO
reactant | N,N-diisopropylethylamine | 1.69 mmol, 294 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | pyridine-2-sulfonyl chloride | 1.69 mmol, 300 mg | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
product | Pyridine-2-sulfonic Acid (4-hydroxymethyl-phenyl)-amide | 210 mg, 47% | OCC1=CC=C(C=C1)NS(=O)(=O)C1=NC=CC=C1 | C12H12N2O3S
